US04011218
To 4-cyanopyridine (4.2 g.) in methanol (60 ml.) is added sodium (0.2 g.). The solution is allowed to stand for 0.5 hour at room temperature and is then added to a suspension of p-aminobenzhydrazide (6.4 g.) in 150 ml. of methanol. The resulting solution is heated 20 hours at reflux during which time a solid separates. The solid is filtered and heated to 245° C. over 1 hour and maintained at that temperature for an additional 15 minutes. After cooling the solid is recrystallized from a mixture of acetonitrile and water to yield 3-(p-aminophenyl)-5-(4-pyridyl)-1,2,4-triazole (2 g.) m.p. 251°-252.5° C.

reactant | 4-cyanopyridine | 4.2 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | sodium | 0.2 g | [Na] | Na
reactant | p-aminobenzhydrazide | 6.4 g | NC1=CC=C(C(=O)NN)C=C1 | C7H9N3O
solvent | methanol | 60 ml | CO | CH4O
product | 3-(p-aminophenyl)-5-(4-pyridyl)-1,2,4-triazole | 2 g | NC1=CC=C(C=C1)C1=NNC(=N1)C1=CC=NC=C1 | C13H11N5
